US04237144
A stirred solution containing 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde (3.27 g., 0.01 mole) and ammonium acetate (6.16 g., 0.08 mole) in methanol (100 ml.) is treated with sodium cyanoborohydride (0.72 g., 0.0115 mole). After stirring 24 hours at 25° C., the reaction is acidified (pH below 2) with concentrated hydrochloric acid and the methanol is distilled at reduced pressure. The residue is stirred in water (25 ml.) for 15 minutes and then the mixture is extracted with ether (two 10 ml. portions). The aqueous layer is made basic (pH above 10) with potassium hydroxide pellets, saturated with sodium chloride and extracted with ether (two 10 ml. portions). The ether extract is dried over magnesium sulfate and the ether distilled under reduced pressure to give 2-amino-methyl-6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran.

reactant | 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde | 0.01 mole, 3.27 g | ClC1=C(C2=C(CC(O2)C=O)C=C1C(C1=CC=CS1)=O)Cl | C14H8Cl2O3S
reactant | ammonium acetate | 0.08 mole, 6.16 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.0115 mole, 0.72 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 2-amino-methyl-6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran | NC1(OC2=C(C1)C=C(C(=C2Cl)Cl)C(C2=CC=CS2)=O)C | C14H11Cl2NO2S
